US08426420B2
(iii) (S)-5-Pyrrolidin-2-yl-1H-tetrazole
To a solution of 494 mg (S)-2-(1-Benzyl-1H-tetrazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester in 50 ml ethanol were added 100 mg Pd(OH)2/C (10%) and the suspension stirred under an atmosphere of hydrogen (4 bar) for 6 h. The reaction mixture was filtrated over a plug of Celite® and washed with ethanol. Yield: 173 mg colorless foam.

reactant | (S)-2-(1-Benzyl-1H-tetrazol-5-yl)-pyrrolidine-1-carboxylic acid benzyl ester | 494 mg | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCC1)C1=NN=NN1CC1=CC=CC=C1 | C20H21N5O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | Pd(OH)2/C | 100 mg | [OH-].[OH-].[Pd+2]
product | (S)-5-Pyrrolidin-2-yl-1H-tetrazole | N1[C@@H](CCC1)C1=NN=NN1 | C5H9N5
